US05811433
c. 5,6-Dichloro-4-hydroxy-2-methyl-nicotinic acid
36 g (0.14 mol) of ethyl 5,6-dichloro-4-hydroxy-2-methyl-nicotinate are boiled under reflux in 88 ml of ethanol and 175 ml of water with 24.2 g (0.43 mol) of potassium hydroxide for thirty minutes. The cooled mixture is brought to a pH of 1 with half-concentrated hydrochloric acid, while cooling with ice. The product which precipitates is isolated, washed with water and dried.

reactant | ethyl 5,6-dichloro-4-hydroxy-2-methyl-nicotinate | 0.14 mol, 36 g | ClC=1C(=NC(=C(C(=O)OCC)C1O)C)Cl | C9H9Cl2NO3
reactant | water | 175 ml | O | H2O
reactant | potassium hydroxide | 0.43 mol, 24.2 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 88 ml | C(C)O | C2H6O
product | 5,6-Dichloro-4-hydroxy-2-methyl-nicotinic acid | ClC=1C(=NC(=C(C(=O)O)C1O)C)Cl | C7H5Cl2NO3
